US07314880B2
A solution of 4-[(R)-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)-methyl]-N,N-diethylbenzamide (10.89 g, 25 mmol) and thiosalicylic acid (4.63 g, 30 mmol) in anhydrous tetrahydrofuran (50 mL) was stirred with a catalyst solution prepared by dissolution of bis(dibenzylidineacetone)palladium (0.718 g, 1.25 mmol) and 1,4-bis(diphenylphosphino)butane (0.533 g, 1.25 mmol) in tetrahydrofuran (10 mL) at room temperature under nitrogen for 1.5 hours. (J.P. Genet, S. Lemaire-Audoire, M. Savignac, Tetrahedron Letters, 36, 1267-1270 (1995)). The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate (150 mL) and aqueous sodium carbonate solution. The layers were separated and diethyl ether (250 mL) was added to the organic layer. This was extracted with 5% sodium carbonate solution (2×150 mL). The organic layer was diluted with pentane (500 mL) and extracted with 3 M hydrochloric acid (6×30 mL). The aqueous solution was adjusted to pH 9-10 with saturated aqueous sodium carbonate solution and extracted with methylene chloride (3×100 mL). The combined organic extracts were dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure to yield 4-[(R)-((2S,5R)-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)methyl]-N,N-diethylbenzamide as a brittle pale yellow foam (10.24 g). The product showed a single peak on HPLC (Zorbax C-8, isocratic 40% 0.01 M NH4OAc in MeOH, 3 min; linear gradient to 100% MeOH, 45 min; isocratic MeOH, 5 min; 1.0 mL/min; λobs =210 nm, Rt=19.24 min). Calc. for C24H33N3O2 0.1 EtOAc 0.4 CH2Cl2: %C, 67.96; H, 7.96; N, 9.59. Found: %C, 67.90; H, 8.03; N, 9.54. 1H NMR (CDCl3, 300 MHz): δ 7.42 (d, J=8.1 Hz, 2H); 7.26 (d, J=8.3 Hz, 2H); 7.11 (t, J=7.8 Hz, 1H); 6.72 (d, J=8.1 Hz, 1H); 6.65 (s, 1H); 6.59 (d, J=7.6 Hz, 1H); 5.16 (s, 1H); 4.93 (v br s, 2H); 3.51 (br m, 2H); 3.27 (br m, 2H); 3.02-2.97 (m, 1H); 2.92 (d, J=10.5 Hz, 1H); 2.66 (br d, J=8.5 Hz, 2H); 2.60-2.45 (m, 1H); 1.84 (dd, J=11.3, 8.3 Hz, 1H); 1.27-1.15 (m, 3H); 1.10 (d, J=6.1 Hz, 3H overlapping with m, 3H); 1.02 (d, J=6.1 Hz, 3H).

reactant | 4-[(R)-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)-methyl]-N,N-diethylbenzamide | 25 mmol, 10.89 g | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@H](C1=CC=C(C(=O)N(CC)CC)C=C1)C1=CC(=CC=C1)O)C | C27H37N3O2
reactant | thiosalicylic acid | 30 mmol, 4.63 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | 1,4-bis(diphenylphosphino)butane | 1.25 mmol, 0.533 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
product | 4-[(R)-((2S,5R)-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)methyl]-N,N-diethylbenzamide | 10.24 g | C[C@@H]1N(C[C@H](NC1)C)[C@H](C1=CC=C(C(=O)N(CC)CC)C=C1)C1=CC(=CC=C1)O | C24H33N3O2
